US04618617
To a solution of 1.56 g of 5-(3-fluoro-4-phenyl-α-methylbenzyl)-3-(2-hydroxyethyl)-1,2,4-oxadiazole in 40 ml of dry THF were successively added dropwise 0.56 g of triethylamine and 0.43 g of acetyl chloride with ice-cooling. After stirring for 4 hours at room temperature, the reaction mixture was poured into ice-water and extracted with benzene. The organic phase was washed with sodium bicarbonate solution, dried over sodium sulfate and evaporated under reduced pressure. The residue was chromatographed over silica gel using chloroform to give 1.57 g of 3-(2-acetoxyethyl)-5-(3-fluoro-4-phenyl-α-methylbenzyl)-1,2,4-oxadiazole as a colorless oil, nD23 1.5564.

reactant | 5-(3-fluoro-4-phenyl-α-methylbenzyl)-3-(2-hydroxyethyl)-1,2,4-oxadiazole | 1.56 g | FC=1C=C(C(C)C2=NC(=NO2)CCO)C=CC1C1=CC=CC=C1 | C18H17FN2O2
reactant | triethylamine | 0.56 g | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.43 g | C(C)(=O)Cl | C2H3ClO
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | 3-(2-acetoxyethyl)-5-(3-fluoro-4-phenyl-α-methylbenzyl)-1,2,4-oxadiazole | 1.57 g | C(C)(=O)OCCC1=NOC(=N1)C(C1=CC(=C(C=C1)C1=CC=CC=C1)F)C | C20H19FN2O3
